US04889858
To 250 g of phosphorus pentoxide is slowly added 160 ml of ethanol at room temperature. The mixture is further stirred with heating at 100° C. for 1 hour. Thereto 42 g of 2-[(3-fluorophenyloxy)methyl]benzoic acid is added and the mixture is stirred with heating at 100° C. for 1 hour. After cooling to room temperature, 500 ml of water is added. After extraction with toluene, washing successively with saturated sodium hydrogen carbonate, water and a saturated saline solution and drying over magnesium sulfate, the solvent is distilled off under reduced pressure to give 31 g of 3-fluoro-6,11-dihydrodibenz[b,e]oxepin-11-one (oil). Mass spectrum m/z: 228(M+).

reactant | phosphorus pentoxide | 250 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ethanol | 160 ml | C(C)O | C2H6O
reactant | 2-[(3-fluorophenyloxy)methyl]benzoic acid | 42 g | FC=1C=C(C=CC1)OCC1=C(C(=O)O)C=CC=C1 | C14H11FO3
solvent | water | 500 ml | O | H2O
product | 3-fluoro-6,11-dihydrodibenz[b,e]oxepin-11-one | 31 g | FC=1C=CC2=C(OCC3=C(C2=O)C=CC=C3)C1 | C14H9FO2
